US05616599
24(a) 5-Cyano-4-(1-hydroxy-1-methylpropyl)-2-propyl-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole
Following a procedure a similar to that described in Example 18(a), but using 380 mg of 5-cyano-4-(1-hydroxy-1-methylpropyl)-2-propylimidazole (prepared as described in Preparation 20), 88 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) and 1.07 g of 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide, 0.97 g of the title compound were obtained as an amorphous solid.

reactant | 5-cyano-4-(1-hydroxy-1-methylpropyl)-2-propylimidazole | 380 mg | C(#N)C1=C(N=C(N1)CCC)C(CC)(C)O | C11H17N3O
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide | 1.07 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C33H25BrN4
product | 5-Cyano-4-(1-hydroxy-1-methylpropyl)-2-propyl-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole | 0.97 g | C(#N)C1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)C(CC)(C)O | C44H41N7O
